US04816452
b. 2-(2-Aminothiazol-4-yl)-(Z)-2-[(4-nitrobenzyloxycarbonyl)methoxyimino]acetic acid
Diphenylmethyl (Z)-2-(4-nitrobenzyloxycarbonyl)methoxyimino-2-(2-tritylaminothiazol-4-yl)acetate (2.5 g) was treated with formic acid under the conditions described in Example 23d, increasing the reaction time to 26 h. The title compound was obtained as a white solid (1.13 g); νmax (Nujol) 3520, 1745, 1605, and 1510 cm-1 ; δH ((CD3)2SO) inter alia 4.85 (2H, s), 5.37 (2H, s), 6.86 (1H, s), 7.23 (2H, br. s), 7.57 and 8.23 (4H, ABq, J 8 Hz).

reactant | Diphenylmethyl (Z)-2-(4-nitrobenzyloxycarbonyl)methoxyimino-2-(2-tritylaminothiazol-4-yl)acetate | 2.5 g | [N+](=O)([O-])C1=CC=C(COC(=O)CO\N=C(/C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C46H36N4O7S
solvent | formic acid | C(=O)O | CH2O2
product | 2-(2-Aminothiazol-4-yl)-(Z)-2-[(4-nitrobenzyloxycarbonyl)methoxyimino]acetic acid | NC=1SC=C(N1)/C(/C(=O)O)=N/OCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C14H12N4O7S
